US07157488B2
Warm mixture of 5-nitroindole (10 g, 62 mmol) and 200 mL glacial acetic acid to 70° C. and treat with Eschenmoser's salt (12 g, 65 mmol). Concentrate after 1 hour the reaction under vacuum to dryness. Mix the residue with 200 mL toluene, reconcentrate to dryness then partition between 200 mL concentrated ammonium hydroxide and 200 mL EtOAc. When all solids dissolved, Separate the layers and extract the aqueous layer 200 mL EtOAc. Dry the combined organic layer over MgSO4 and concentrate to give N,N-dimethyl-5-nitrotryptamine as a solid.

reactant | 5-nitroindole | 62 mmol, 10 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
reactant | Eschenmoser's salt | 65 mmol, 12 g | C[N+](=C)C.[I-]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-5-nitrotryptamine | CN(CCC1=CNC2=CC=C(C=C12)[N+](=O)[O-])C | C12H15N3O2
